* NGSPICE file created from main.ext - technology: sky130A

.subckt sky130_fd_pr__nfet_01v8_8LGPJ7 G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
**devattr s=23200,916 d=23200,916
.ends

.subckt sky130_fd_pr__pfet_01v8_NMZPXD G D B S
X0 S G D B sky130_fd_pr__pfet_01v8 ad=1.45 pd=10.58 as=1.45 ps=10.58 w=5 l=0.5
**devattr s=58000,2116 d=58000,2116
.ends

.subckt sky130_fd_pr__nfet_01v8_6CY75A G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=1.48
**devattr s=46400,1716 d=46400,1716
.ends

.subckt sky130_fd_pr__nfet_01v8_EAQ5W9 G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=0.5
**devattr s=46400,1716 d=46400,1716
.ends

.subckt ota_5t_sky130 VDD VOUT VINP VINN GND
XXM1 VINP XM5/S GND XM4/G sky130_fd_pr__nfet_01v8_8LGPJ7
XXM2 VINN XM5/S GND VOUT sky130_fd_pr__nfet_01v8_8LGPJ7
XXM3 XM4/G XM4/G VDD VDD sky130_fd_pr__pfet_01v8_NMZPXD
XXM4 XM4/G VOUT VDD VDD sky130_fd_pr__pfet_01v8_NMZPXD
XXM5 VDD GND GND XM5/S sky130_fd_pr__nfet_01v8_6CY75A
XXM6 VDD GND GND VDD sky130_fd_pr__nfet_01v8_EAQ5W9
.ends

.subckt sky130_fd_pr__nfet_01v8_WMUBDE G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.58 as=0.145 ps=1.58 w=0.5 l=7
**devattr s=5800,316 d=5800,316
.ends

.subckt sky130_fd_pr__pfet_01v8_5AEUQ7 G D B S
X0 S G D B sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=7
**devattr s=11600,516 d=11600,516
.ends

.subckt sky130_fd_pr__nfet_01v8_Y8ARZT G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.145 pd=1.58 as=0.145 ps=1.58 w=0.5 l=20
**devattr s=5800,316 d=5800,316
.ends

.subckt sky130_fd_pr__nfet_01v8_49D4KV G D B S
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.5
**devattr s=11600,516 d=11600,516
.ends

.subckt otaq_5t_sky130 VDD VOUT VINP VINN GND
XXM1 VINP XM5/S GND XM4/G sky130_fd_pr__nfet_01v8_WMUBDE
XXM2 VINN XM5/S GND VOUT sky130_fd_pr__nfet_01v8_WMUBDE
XXM3 XM4/G XM4/G VDD VDD sky130_fd_pr__pfet_01v8_5AEUQ7
XXM4 XM4/G VOUT VDD VDD sky130_fd_pr__pfet_01v8_5AEUQ7
XXM5 VDD GND GND XM5/S sky130_fd_pr__nfet_01v8_Y8ARZT
XXM6 VDD GND GND VDD sky130_fd_pr__nfet_01v8_49D4KV
.ends

.subckt sky130_fd_pr__res_high_po_1p41_2THKUN B R2 R1
X0 R1 R2 B sky130_fd_pr__res_high_po_1p41 l=88.83
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_PPRVRG C1 C2
X0 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=30 w=30
X1 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=30 w=30
X2 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=30 w=30
X3 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=30 w=30
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_C954NR C1_1 C1_0 C2_1 C2_0
X0 C1_0 C2_0 sky130_fd_pr__cap_mim_m3_1 l=24 w=24
X1 C1_1 C2_1 sky130_fd_pr__cap_mim_m3_1 l=24 w=24
.ends

.subckt otaSys_5t_sky130 VDD in out GND
Xx1 VDD XC1/C1 x4/VINN in GND ota_5t_sky130
Xx3 VDD XC1/C1 x4/VINN out GND ota_5t_sky130
Xx2 VDD out XC1/C1 x4/VINN GND ota_5t_sky130
Xx4 VDD out out x4/VINN GND otaq_5t_sky130
Xsky130_fd_pr__res_high_po_1p41_2THKUN_0 GND x4/VINN VDD sky130_fd_pr__res_high_po_1p41_2THKUN
Xsky130_fd_pr__res_high_po_1p41_2THKUN_1 GND x4/VINN GND sky130_fd_pr__res_high_po_1p41_2THKUN
XXC1 XC1/C1 GND sky130_fd_pr__cap_mim_m3_1_PPRVRG
Xsky130_fd_pr__cap_mim_m3_1_C954NR_0 out out GND GND sky130_fd_pr__cap_mim_m3_1_C954NR
.ends

.subckt sky130_fd_pr__res_generic_po_2VQQNW R2 R1
X0 R1 R2 sky130_fd_pr__res_generic_po w=1 l=21
.ends

.subckt sky130_fd_pr__res_generic_po_9W8GJE R2 R1
X0 R1 R2 sky130_fd_pr__res_generic_po w=1 l=63
.ends

.subckt DAC3bit b0 b1 b2 VDD GND out
XXR1 GND XR2/R1 sky130_fd_pr__res_generic_po_2VQQNW
XXR10 XR8/R2 XR9/R1 sky130_fd_pr__res_generic_po_2VQQNW
XXR2 XR9/R2 XR2/R1 sky130_fd_pr__res_generic_po_2VQQNW
XXR11 XR8/R2 out sky130_fd_pr__res_generic_po_9W8GJE
XXR3 b0 XR4/R2 sky130_fd_pr__res_generic_po_2VQQNW
XXR12 out VDD sky130_fd_pr__res_generic_po_2VQQNW
XXR4 XR4/R2 XR9/R2 sky130_fd_pr__res_generic_po_2VQQNW
XXR5 XR6/R1 b1 sky130_fd_pr__res_generic_po_2VQQNW
XXR13 GND out sky130_fd_pr__res_generic_po_2VQQNW
XXR6 XR9/R1 XR6/R1 sky130_fd_pr__res_generic_po_2VQQNW
XXR7 XR8/R1 b2 sky130_fd_pr__res_generic_po_2VQQNW
XXR8 XR8/R2 XR8/R1 sky130_fd_pr__res_generic_po_2VQQNW
XXR9 XR9/R2 XR9/R1 sky130_fd_pr__res_generic_po_2VQQNW
.ends

.subckt main VDD GND b0 b1 b2 out
Xx1 VDD x1/in out GND otaSys_5t_sky130
Xx5 b0 b1 b2 VDD GND x1/in DAC3bit
.ends

